US04874761
Following a procedure similar to that described in Preparation 2A above, 57 g (0.195 mole) of 2-methyl-3(1-naphthylcarbonyl)nitrobenzene and 103 ml (0.784 mole) of DMF dimethyl acetal in 300 ml of DMF was heated under reflux for seventeen hours and then taken to dryness to give 2-(2-dimethylaminoethenyl)-3-(1-naphthylcarbonyl)nitrobenzene as an oil.

reactant | 2-methyl-3(1-naphthylcarbonyl)nitrobenzene | 0.195 mole, 57 g | CC1=C(C=CC=C1C(=O)C1=CC=CC2=CC=CC=C12)[N+](=O)[O-] | C18H13NO3
reactant | DMF dimethyl acetal | 0.784 mole, 103 ml | CN(C)C(OC)OC | C5H13NO2
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | 2-(2-dimethylaminoethenyl)-3-(1-naphthylcarbonyl)nitrobenzene | CN(C=CC1=C(C=CC=C1C(=O)C1=CC=CC2=CC=CC=C12)[N+](=O)[O-])C | C21H18N2O3
